US05767131
Ethyl 4-azidobutyrate (8.06 g, 51.3 mmol) and KOH (14.4 g, 0.256 mol) were dissolved into a mixture of 100 ml of water and 120 ml of MeOH. The solution was stirred at 0° C. for 2 hrs and then MeOH was removed in vacuo. The aqueous layer was extracted by CHCl3 (50 ml), acidified to pH=1 by 2N aqueous HCl and extracted by Et2O (2×100 ml). The organic layers were combined, washed with water (100 ml) and dried over Na2SO4. After filtration and evaporation of solvent, 4-azidobutyric acid (5.30 g, 80%) was obtained as a colorless oil.

reactant | Ethyl 4-azidobutyrate | 51.3 mmol, 8.06 g | N(=[N+]=[N-])CCCC(=O)OCC | C6H11N3O2
reactant | KOH | 0.256 mol, 14.4 g | [OH-].[K+]
reactant | water | 100 ml | O | H2O
solvent | MeOH | 120 ml | CO | CH4O
product | 4-azidobutyric acid | 5.30 g, 80% | N(=[N+]=[N-])CCCC(=O)O | C4H7N3O2
